US07902356B2
2-(4-Chloro-phenyl)-5-[3-methoxy-4-(4-methyl-morpholin-2-ylmethoxy)-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt
Dissolve 2-(4-chloro-phenyl)-5-[3-methoxy-4-(morpholin-2-ylmethoxy)-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one (460 mg, 0.928 mmol) in dry acetone (3 mL) under nitrogen. Add K2CO3 (321 mg, 1.11 mmol) and NaI (14 mg, 0.092 mmol). Evacuate under vacuum and charge the reaction mixture with nitrogen. Mix well and then add MeI (70 mL, 1.11 mmol). Stir the reaction mixture overnight. Add saturated NH4Cl solution (5 mL) and extract with EtOAc (3×10 mL). Wash the combined organic layers with water (10 mL), dry with Na2SO4, filter, and concentrate. Purify the resulting residue with silica gel chromatography, using 0-10% MeOH/CHCl3 to give the title compound. Dissolve the compound in minimal CH2Cl2 and add HCl/Et2O to make the HCl salt as a yellow-orange solid (74 mg, 15%). MS (ES+) 500.0 (M+1)+.

reactant | 2-(4-chloro-phenyl)-5-[3-methoxy-4-(morpholin-2-ylmethoxy)-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | 0.928 mmol, 460 mg | ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C1=CC(=C(C=C1)OCC1CNCCO1)OC)=O | C24H24ClN3O4S
reactant | K2CO3 | 1.11 mmol, 321 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.092 mmol, 14 mg | [Na+].[I-]
reactant | MeI | 1.11 mmol, 70 mL | CI | CH3I
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 2-(4-Chloro-phenyl)-5-[3-methoxy-4-(4-methyl-morpholin-2-ylmethoxy)-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt | Cl.ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C1=CC(=C(C=C1)OCC1CN(CCO1)C)OC)=O | InChI=1S/C25H26ClN3O4S.ClH/c1-28-11-12-32-19(14-28)15-33-21-8-7-18(13-22(21)31-2)29-10-9-20-23(25(29)30)34-24(27-20)16-3-5-17(26)6-4-16;/h3-8,13,19H,9-12,14-15H2,1-2H3;1H
